US07196104B2
Pr Preparation AT: 2-Bromo-6-(piperidin-1-ylmethyl)pyridine
To a stirred solution of 6-bromo-2-pyridine carboxaldehyde (5.05 g, 27 mmol) in anhydrous CH2Cl2 (200 mL) at RT, under N2, piperidine (2.95 mL, 29 mmol) was added, followed by NaBH(OAc)3 (11.51 g, 54 mmol) and AcOH (6.2 mL, 108 mmol) 30 min later. After 20 h, a 2M solution of Na2CO3(aq) (20 mL) was added. The mixture was vigorously stirred for an additional 30 min, washed successively with a saturated solution of NaHCO3(aq) until the pH of the aqueous layer reached 7 (2×100 mL), H2O (100 mL) and brine (100 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure to yield the title compound as a yellow oil. This was used crude in the next step. MS m/z: 255 (M+H), 257 (M+3).

reactant | 6-bromo-2-pyridine carboxaldehyde | 27 mmol, 5.05 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | piperidine | 29 mmol, 2.95 mL | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | 54 mmol, 11.51 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 108 mmol, 6.2 mL | CC(=O)O | C2H4O2
reactant | Na2CO3 | 20 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 2-Bromo-6-(piperidin-1-ylmethyl)pyridine | BrC1=NC(=CC=C1)CN1CCCCC1 | C11H15BrN2
